US06747023B1
2-Diacetylamino-4-(4-methylphenyl)pyridine
2-Amino-4-(4-methylphenyl)pyridine (1.27 g) was dissolved in dichloromethane (50 ml). Under ice cooling, N,N-diisopropylethylamine (1.80 ml) and acetyl chloride (735 μl) were successively added dropwise to the resulting solution. After heating to room temperature, the reaction mixture was added again with N,N-diisopropylethylamine (0.90 ml) and acetyl chloride (800 μl). The mixture was stirred for 18 hours. Methanol was added to the reaction mixture. Dilute hydrochloric acid and ethyl acetate were then added to the residue obtained by distilling off the solvent in order to separate the organic layer. The organic layer was dried over anhydrous magnesium sulfate, followed by concentration. The residue was dissolved in methanol. Crystals precipitated by the addition of water were collected by filtration and dried, whereby the title compound (1.39 g, 75%) was obtained.

reactant | 2-Amino-4-(4-methylphenyl)pyridine | 1.27 g | NC1=NC=CC(=C1)C1=CC=C(C=C1)C | C12H12N2
reactant | N,N-diisopropylethylamine | 1.80 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetyl chloride | 735 μl | C(C)(=O)Cl | C2H3ClO
reactant | N,N-diisopropylethylamine | 0.90 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetyl chloride | 800 μl | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | Methanol | CO | CH4O
product | 2-Diacetylamino-4-(4-methylphenyl)pyridine | 1.39 g, 75% | C(C)(=O)N(C1=NC=CC(=C1)C1=CC=C(C=C1)C)C(C)=O | C16H16N2O2
